US06852744B2
To a solution of 1-benzylimidazolidin-2-one (3.5 g, 19.9 mmol) in DMF (50 ml) at 0° C. were added lithium tert-butoxide (1.9 g, 23.8 mmol) and tert-butyl bromoacetate (3.2 ml, 21.8 mmol). After stirring the mixture at room temperature overnight, the reaction mixture was poured into water (100 ml) and the mixture was extracted with ethyl acetate. The organic phase was washed with water, 10% aqueous citric acid solution, saturated aqueous sodium hydrogen carbonate solution and brine. The organic solution was dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The crystalline residue was washed with n-hexane, and dried to give tert-butyl 2-(2-oxo-3-benzylimidazolidinyl)acetate (5.08 g).

reactant | 1-benzylimidazolidin-2-one | 19.9 mmol, 3.5 g | C(C1=CC=CC=C1)N1C(NCC1)=O | C10H12N2O
reactant | lithium tert-butoxide | 23.8 mmol, 1.9 g | CC(C)([O-])C.[Li+]
reactant | tert-butyl bromoacetate | 21.8 mmol, 3.2 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | 100 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | tert-butyl 2-(2-oxo-3-benzylimidazolidinyl)acetate | 5.08 g | O=C1N(CCN1CC1=CC=CC=C1)CC(=O)OC(C)(C)C | C16H22N2O3
